US04410539
A solution of 5-hydroxymethyl-3-methylbenzo[b]thiophene (8.50 g.) in dry ether (120 ml.) was added dropwise to a stirred solution of n-butyl lithium (72 ml. of 1.6 M solution in hexane) in dry ether (120 ml.) at 0° under an atmosphere of dry nitrogen. The resulting mixture was stirred at 0° for 2 hours and then poured onto a mixture of crushed solid carbon dioxide and ether. When all the carbon dioxide had evaporated the mixture was shaken with water. The aqueous layer was separated and acidified with concentrated hydrochloric acid. The solid was filtered off, washed well with water and crystallized from ethanol to give 5-hydroxymethyl-3-methylbenzo[b]thiophene-2-carboxylic acid (4.80 g.), m.p. 260°-262°.

reactant | 5-hydroxymethyl-3-methylbenzo[b]thiophene | 8.50 g | OCC1=CC2=C(SC=C2C)C=C1 | C10H10OS
reactant | n-butyl lithium | 1.6 M, 72 ml | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | ether | 120 ml | CCOCC | C4H10O
solvent | ether | 120 ml | CCOCC | C4H10O
product | 5-hydroxymethyl-3-methylbenzo[b]thiophene-2-carboxylic acid | 4.80 g | OCC1=CC2=C(SC(=C2C)C(=O)O)C=C1 | C11H10O3S
